US07585881B2
Step 1: N-Ethyl-2-(methoxyacetyl)hydrazinecarbothioamide:
Methoxyacetic acid 360 mg, 3.99 mmol), 4-ethyl-3-thiosemicarbazide (581 mg, 4.87 mmol), diisopropylcarbodiimide (615 mg, 4.87 mmol) and hydroxybenzotriazole (69.6 mg, 0.51 mmol) were mixed in dimethylformamide (10 ml) and stirred under argon at ambient temperatures for 19 h. After evaporation to dryness the crude was used directly in the next step. MS (ESI) m/z 192 (M+1). Step 2: 4-Ethyl-5-methoxymethyl-2,4-dihydro-[1,2,4]triazole-3-thione: N-Ethyl-2-(methoxyacetyl(hydrazinecarbothioamide (760 mg crude, 4 mmol) and sodium bicarbonate (560 mg, 6.6 mmol) were suspended in water (15 ml) and refluxed for 5 h. After cooling and filtration the filtrate was acidified with concentrated hydrochloric acid, followed by extraction with ethyl acetate. After evaporation to dryness the crude was recrystallized in ethyl acetate/heptane. Filtration and recrystallization of the mother liquor gave a combined yield of 325 mg (47%) of the title compound. 1H NMR (CDCl3), δ (ppm): 4.47 (s, 2H), 4.13 (q, 2H), 3.37 (s, 3H), 1.38 (t, 3H).

reactant | Methoxyacetic acid | 3.99 mmol, 360 mg | COCC(=O)O | C3H6O3
reactant | 4-ethyl-3-thiosemicarbazide | 4.87 mmol, 581 mg | C(C)NC(NN)=S | C3H9N3S
reactant | diisopropylcarbodiimide | 4.87 mmol, 615 mg | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | hydroxybenzotriazole | 0.51 mmol, 69.6 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | hydrazinecarbothioamide | 4 mmol, 760 mg | N(N)C(N)=S | CH5N3S
reactant | sodium bicarbonate | 6.6 mmol, 560 mg | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 15 ml | O | H2O
product | N-Ethyl-2-(methoxyacetyl)hydrazinecarbothioamide | yield of 325 mg, 47% | C(C)NC(=S)NNC(COC)=O | C6H13N3O2S
